data/oMe_Silver.jsonl
{"reaction_id": "NR-240_1-C1CCCCC1_2-C(=O)OC_3-C1CCC1_4-C1CCCCC1_5-Cc1ccccc1","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["C1CCCCC1C(=O)C(C(=O)OC)[N+](C1CCC1)(C1CCCCC1)Cc1ccccc1","[Li]N(C(C)C)C(C)C"],"products_smiles": ["C1CCCCC1C(=O)C(C(=O)OC)(Cc1ccccc1)N(C1CCC1)(C1CCCCC1)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C([O-])=C(C(=O)OC)[N+](C1CCC1)(C1CCCCC1)Cc1ccccc1","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C1CCCCC1C(=O)C(C(=O)OC)(Cc1ccccc1)N(C1CCC1)(C1CCCCC1)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
{"reaction_id": "NR-061_1-C(C)(C)C_2-CC","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(C(C)(C)C)C(=O)CCCC(=O)O(CC)"],"products_smiles": ["O(C(C)(C)C)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C)(C)C)C(=O)[CH-]CCCC(=O)O(CC)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(C(C)(C)C)C(=O)C1C([O-])(O(CC))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(C(C)(C)C)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
{"reaction_id": "NR-235_1-C(C)C_2-c1ccccc1_3-I_4-Cl","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["C(C)CNC(=O)C(c1ccccc1)(I)Oc1ccc(Cl)cc1","CC[O-]"],"products_smiles": ["C(C)CN(c1ccc(Cl)cc1)C(=O)C(c1ccccc1)(I)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)C[N-]C(=O)C(c1ccccc1)(I)Oc1ccc(Cl)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(Cl)=C1)OC(c1ccccc1)(I)C(N2C(C)C)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)CN(c1ccc(Cl)cc1)C(=O)C(c1ccccc1)(I)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)CN(c1ccc(Cl)cc1)C(=O)C(c1ccccc1)(I)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
